US09278944B2
To a suspension of 60% oil-based sodium hydride (6.50 g) in tetrahydrofuran (400 mL) was added dropwise a solution of 4-tert-butyl 1-ethyl 2-(diethoxyphosphoryl)succinate (55.0 g) in tetrahydrofuran (100 mL) under ice-cooling over 30 minutes, and then the mixture was stirred under the cooling for 1 hour. Then, thereto was added a solution of 2-furaldehyde (12.8 mL) in tetrahydrofuran (40 mL) under ice-cooling over 15 minutes, and the mixture was stirred at room temperature for 1 hour. Ice water was poured into the reaction mixture under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure to give 4-tert-butyl 1-ethyl (2E)-2-(2-furylmethylene)succinate (47.0 g) as a brown oil crude. Then, the oil (47.0 g) was stirred in trifluoroacetic acid (100 mL) at room temperature for 1 hour, and then concentrated under reduced pressure. The resulting residue was treated azeotropically with toluene several times to give (3E)-3-(ethoxycarbonyl)-4-(2-furyl)-but-3-enoic acid (39.2 g) as a brown oil crude. Then, the oil (39.2 g) was dissolved in acetic anhydride (100 mL), and thereto was added potassium acetate (19.8 g), and then the mixture was heated to reflux for 45 minutes. The reaction mixture was let stand to be cooled, and then thereto was added water (100 mL), and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1) to give ethyl 4-(acetyloxy)benzofuran-6-carboxylate (24.7 g) as a pale orange solid. APCI-MS m/z: 266 [M+NH4]+.

reactant | sodium hydride | 6.50 g | [H-].[Na+]
reactant | 4-tert-butyl 1-ethyl 2-(diethoxyphosphoryl)succinate | 55.0 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CC(=O)OC(C)(C)C | C14H27O7P
reactant | 2-furaldehyde | 12.8 mL | O1C(=CC=C1)C=O | C5H4O2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-tert-butyl 1-ethyl (2E)-2-(2-furylmethylene)succinate | 47.0 g | O1C(=CC=C1)\C=C(\C(=O)OCC)/CC(=O)OC(C)(C)C | C15H20O5
